US07015348B2
The reaction was carried out in a manner similar to that in Example 9, except that 26.2 mg (0.0292 mmol) of Ru(OCOCH3)2((S)-tol-binap), 500 mg (2.92 mmol) of methyl 3-(n-butylamino)crotonate and 2.5 ml of 10% hydrogen chloride-methanol solution were used instead of 78.0 mg (0.0869 mmol) of Ru(OCOCH3)2((S)-tol-binap), 1.00 g (8.69 mmol) of methyl 3-aminocrotonate and 5 ml of 2,2,2-trifluoroethanol, respectively, and except that the reaction was carried out for 16 hours instead of 15 hours, and the reaction mixture was treated as in Example 9 to give methyl 3-(n-butylamino)butanoate in a yield of 10.6%.

reactant | methyl 3-(n-butylamino)crotonate | 2.92 mmol, 500 mg | C(CCC)N\C(=C/C(=O)OC)\C | C9H17NO2
reactant | hydrogen chloride methanol | 2.5 ml | Cl.CO
reactant | methyl 3-aminocrotonate | 8.69 mmol, 1.00 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 2,2,2-trifluoroethanol | 5 ml | FC(CO)(F)F | C2H3F3O
product | methyl 3-(n-butylamino)butanoate | yield of 10.6% | C(CCC)NC(CC(=O)OC)C | C9H19NO2
